US06239131B1
Preparation of N-(2-nitrophenyl)-N-(2-cyanoethyl)-2-fluoroaniline
N-(2-Nitrophenyl)-2-fluoroaniline (17.8 g) was dissolved in acrylonitrile (100 ml), triton B (40% benzyltrimethylammonium hydroxide in methanol) (1.0 ml) was added, the mixture was stirred at 50-60° C. for 3 hours. The reaction mixture was concentrated under reduced pressure, the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=4:1), to thereby obtain 6.37 g of the titled compound as a orange color crystal.

reactant | N-(2-Nitrophenyl)-2-fluoroaniline | 17.8 g | [N+](=O)([O-])C1=C(C=CC=C1)NC1=C(C=CC=C1)F | C12H9FN2O2
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | acrylonitrile | 100 ml | C(C=C)#N | C3H3N
solvent | methanol | CO | CH4O
product | N-(2-nitrophenyl)-N-(2-cyanoethyl)-2-fluoroaniline | 6.37 g | [N+](=O)([O-])C1=C(C=CC=C1)N(C1=C(C=CC=C1)F)CCC#N | C15H12FN3O2
